US07576165B2
Synthesis of 5-(4-vinylbenzylthio)-1H-1,2,3-triazole (Scheme 19)
10 mmole of 4-mercapto-1H-1,2,3-triazole (sodium salt) was dissolved in 20 ml of ethanol in stirring. 10 mmole of 4-vinylbenzene chloride was added, and stirred overnight. The precipitate was removed by filtration, the solvent in the filtrate was removed in vacuum. The obtained solid was separated with a Si gel column (solvents: 1 ethylacetate/1 hexane in volume). 2.1 g product was obtained. 1H NMR (CD3Cl): 7.46 (1H, s), 7.31 (2H, d, JH-H=8.16), 7.18 (2H, d, JH-H=8.16), 6.67 (1H, m), 5.71 (1H, d, JH-H=16.68), 5.22 (1H, d, JH-H=11.68), 4.09 (2H, S).

reactant | 4-mercapto-1H-1,2,3-triazole | 10 mmole | SC=1N=NNC1 | C2H3N3S
reactant | 4-vinylbenzene chloride | 10 mmole | [Cl-].C(=C)C1=CC=CC=C1
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(4-vinylbenzylthio)-1H-1,2,3-triazole | 2.1 g | C(=C)C1=CC=C(CSC2=CN=NN2)C=C1 | C11H11N3S
